US07723347B2
3-Methyl-4-nitro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine
A solution of 80 mg (210 μmol) of 3-bromo-4-nitro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine, 27 mg (210 μmol) of trimethylboroxine, 25 mg (20 μmol) of tetrakis(tri-phenylphosphine)palladium and 103 mg (640 μmol) of potassium carbonate in 2.00 ml of degassed DMF is stirred in a sealed pressure vessel at 110° C. for 6 h and then at RT overnight. The suspension is then filtered through an Extrelut silica gel cartridge, the cartridge is washed with a mixture of dichloromethane/methanol 1:1 and the filtrate is concentrated under reduced pressure. The residue is purified by preparative RP-HPLC.

reactant | 3-bromo-4-nitro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine | 210 μmol, 80 mg | BrC1=CN(C2=NC=CC(=C21)[N+](=O)[O-])COCC[Si](C)(C)C | C13H18BrN3O3Si
reactant | trimethylboroxine | 210 μmol, 27 mg | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | potassium carbonate | 640 μmol, 103 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2.00 ml | CN(C)C=O | C3H7NO
product | 3-Methyl-4-nitro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine | CC1=CN(C2=NC=CC(=C21)[N+](=O)[O-])COCC[Si](C)(C)C | C14H21N3O3Si
